US06353117B1
In a flask with an inert atmosphere (E)-1,1,1-trifluoro-4-(4-methylsulphonylphenyl)-3-butene-2-one (prepared according to the method E-1) (1.83 g, 6.58 mmoles) and 4-methylphenylhydrazine chlorohydrate (1.04 g, 6.58 mmoles) are dissolved in 50 ml de ethanol. A few drops of hydrochloric acid are added, and the mixture refluxed under an inert atmosphere for 4 days. The mixture is cooled and the product crystallised. The solution is filtered and the product recrystallised from ethanol. 4,5-dihydro-1-(4-methylphenyl]-5-(4-methylsulphonylphenyl)-3-trifluoromethyl-1H-pyrazole (0.8 g, yield: 32%) is obtained in the form of a solid with a melting point of 140-3° C.

reactant | (E)-1,1,1-trifluoro-4-(4-methylsulphonylphenyl)-3-butene-2-one | FC(C(\C=C\C1=CC=C(C=C1)S(=O)(=O)C)=O)(F)F | C11H9F3O3S
reactant | 4-methylphenylhydrazine | CC1=CC=C(C=C1)NN | C7H10N2
solvent | ethanol | C(C)O | C2H6O
catalyst | hydrochloric acid | A few drops | Cl | ClH
product | 4,5-dihydro-1-(4-methylphenyl]-5-(4-methylsulphonylphenyl)-3-trifluoromethyl-1H-pyrazole | 0.8 g, yield: 32% | CC1=CC=C(C=C1)N1N=C(CC1C1=CC=C(C=C1)S(=O)(=O)C)C(F)(F)F | C18H17F3N2O2S
